US04490380
Preparation of 3-Chloro-2-((Phenylmethyl)thio)pyridine
42.0 Grams (0.338 mole) of benzyl mercaptan were dissolved in 350 ml dimethylformamide which had been dried over molecular sieves. The solution was placed under a nitrogen atmosphere and 16.2 grams (0.338 mole) of a 50 percent dispersion of sodium hydride was slowly added. Stirring was continued until hydrogen gas evolution stopped. Thereupon, the resulting solution was added slowly, again with stirring, to a solution of 50.0 grams (0.338 mole) of 2,3-dichloropyridine in 200 ml dry dimethylformamide. The mixture was heated at 70° C. for 4 hours.

reactant | benzyl mercaptan | 0.338 mole | C(C1=CC=CC=C1)S | C7H8S
reactant | 2,3-dichloropyridine | 0.338 mole, 50.0 grams | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-((Phenylmethyl)thio)pyridine | ClC=1C(=NC=CC1)SCC1=CC=CC=C1 | C12H10ClNS
